US06342765B1
Tributylamine (24.6 ml) was added to a stirred mixture of methyl 3-(trifluoromethanesulfonyloxy)pyridin-2-carboxylate (19.6 g), bis (triortho-tolylphosphine)palladium(II) chloride (1.08 g), copper (I) iodide (0.1 3 g) and 4-fluorostyrene (12.3 ml) in DMF (300 ml). The solution was heated under an inert atmosphere at 90° C. for 26 hours then cooled to ambient temperature and concentrated under reduced pressure. The residue was dissolved in dichloromethane (300 ml), the solid filtered and the filtrate washed with 1M. citric acid (3×100 ml), saturated aqueous sodium bicarbonate (150 ml), dried and concentrated under reduced pressure. The brown oil obtained was pre-absorbed onto silica then purified on a silica flash column eluting with ethyl acetate/iso-hexane (4:6) to give methyl 3-[2-(4-fluorophenyl)ethenyl]pyridin-2-carboxylate as a pale yellow solid (12.4 g).

reactant | Tributylamine | 24.6 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | methyl 3-(trifluoromethanesulfonyloxy)pyridin-2-carboxylate | 19.6 g | FC(S(=O)(=O)OC=1C(=NC=CC1)C(=O)OC)(F)F | C8H6F3NO5S
reactant | 4-fluorostyrene | 12.3 ml | FC1=CC=C(C=C)C=C1 | C8H7F
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 3 g | [Cu]I
product | methyl 3-[2-(4-fluorophenyl)ethenyl]pyridin-2-carboxylate | 12.4 g | FC1=CC=C(C=C1)C=CC=1C(=NC=CC1)C(=O)OC | C15H12FNO2
